US08134013B2
N-(2-Carbamoylethyl)-3-({1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)benzamide
3-Amino-N-(2-carbamoylethyl)benzamide (56 mg, 0.27 mmol) was stirred with a dimethylformamide solution of thiocarbonyldiimidazole (0.1 M, 2.25 mL, 0.225 mmol) at room temperature for 1.5 hours, and then with a dimethylformamide solution of 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol prepared in Reference Synthetic Example 14 (0.1 M, 1.8 mL, 0.18 mmol) at 40° C. for 1 hour, and then stirred at room temperature for 17 hours. After addition of water and saturated aqueous sodium chlorides the solution was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate and filtered. The solvent was evaporated, and chloroform and hexane were added to the residue. The precipitated solid was collected by filtration, washed with hexane and dried to give 102.7 mg of the desired product (yield 100%).

reactant | 3-Amino-N-(2-carbamoylethyl)benzamide | 0.27 mmol, 56 mg | NC=1C=C(C(=O)NCCC(N)=O)C=CC1 | C10H13N3O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | thiocarbonyldiimidazole | 0.225 mmol, 0.1 M, 2.25 mL | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 3-(1-hydrazonoethyl)-1-methyl-5-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-ol | N(N)=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C13H13F3N4O
solvent | water | O | H2O
product | N-(2-Carbamoylethyl)-3-({1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidene}hydrazinecarbothioamido)benzamide | 102.7 mg, yield 100% | C(N)(=O)CCNC(C1=CC(=CC=C1)NC(=S)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C24H24F3N7O3S
